Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fulminant liver failure
 
Major Surgical or Invasive Procedure:
Diagnostic/therapeutic paracentesis
Transjugular liver biopsy

 
History of Present Illness:
___ PMHx for extrapulmonary sarcoidosis with no known hepatic 
involvement with steroid induced ___ transferred from ___ 
___ with acute fulminant liver failure likely from tylenol 
toxicity. Patient over the past 3 months had failure to thrive 
with 30lb weight loss, unexplained nausea/vomiting. No LFT 
abdomnormalities during this period. Per report, he has been 
taking several grams of tylenol per day for the past several 
months. On ___, patient started having continous vomiting and 
became lightheaded and lost consciousness on ___ and was 
rushed to ___.
  
On presentation, his labs are significant for pH of 6.99 (ABG), 
with bicarb of 5. Lactate of 14. ALT 893. AST 1259. TB 3.6. INR 
2.5. K 4.3. BUN 12 and creatinine of 1.0. Patient was started on 
NAC (NAC per protocol (12.5mg/kg/hr for 4 hours followed by 
6.25mg/kg/hr), Thiamine, Sodium Bicarb (3amps) for fulminant 
hepatic failure and transferred to ___ for further care. 
Patient came ___ with INR of 2.5. Got total of 4 units FFP, 1 
units of Cyro, 1 unit of Vitamin K. Head CT showed no acute 
intracranial process. Liver doppler was within normal limits. 
Patient was started on 2 additional units of Bicarb, and 
Plasmalyte.  
Patient now off pressors with lactate trending down. 
Transaminases trending down, bili and INR remain elevated.
 
Past Medical History:
Fulminant liver failure likely secondary to tylenol ingestion 
requiring 23-day hospitalization ___ ___ at ___
Portal hypertension with minimal ascites noted ___ ___, 
possibly acute ___ tylenol ingestion
Gastroparesis (confirmed with gastric emptying study ___
Sarcoidosis with extra-pulmonary symptoms (primarily myalgias 
and joint pain), previously on steroids 
Pernicious anemia
B12 deficiency
Iron deficiency anemia
Hypercholesterolemia
Diabetes Mellitus non-insulin dependent
GERD
Depression
Paroxysmal atrial fibrillation
 
Social History:
___
Family History:
Significant heart disease, stroke, MS, dementia; no known liver 
history. 
 
Physical Exam:
ADMISSION EXAM:
=================
VS: Stable on Vent  
General: Intubated, sedated  
HEENT: ETT tube ___ place  
Neck: Supple  
CV: Hemodynamically stable  
Lungs: Lungs clear to auscultation  
Abdomen: Soft, non-tender, no rebound or guarding  
GU: Foley ___ place  

DISCHARGE EXAM:
=================
Vitals: T 98.2 BP 92/64 HR 93 RR 16 O2 99% RA
Weight: 53.3 kg
General: Very thin, alert, oriented to person, place, and time, 
no acute distress  
HEENT: sclera icteric, MMM, oropharynx clear  
Lungs: CTAB
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no involuntary guarding appreciated 
Ext: Teds ___ place, thin extremities, warm, well perfused, 2+ 
pulses  
Neuro: EOMI, strength ___ on shoulder shrug, neck flexion, 
shoulder abduction, hip flexion. A&Ox3. States days of the week 
backwards with no errors. No asterixis.
Skin: Marked jaundice throughout
Psych: Affect: appropriate, denies SI.
 

 
Pertinent Results:
ADMISSION LABS:
=================
___ 05:25PM BLOOD WBC-13.1* RBC-2.90* Hgb-9.0* Hct-30.1* 
MCV-104* MCH-31.0 MCHC-29.9* RDW-19.1* RDWSD-72.8* Plt ___
___ 02:30AM BLOOD Neuts-95* Bands-0 Lymphs-4* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-10.45* 
AbsLymp-0.44* AbsMono-0.11* AbsEos-0.00* AbsBaso-0.00*
___ 02:30AM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Target-OCCASIONAL Tear 
Dr-1+
___ 05:25PM BLOOD ___ PTT-34.1 ___
___ 05:25PM BLOOD ___
___ 02:30AM BLOOD Glucose-297* UreaN-10 Creat-1.1 Na-149* 
K-3.0* Cl-105 HCO3-16* AnGap-31*
___ 05:25PM BLOOD ALT-893* AST-1259* AlkPhos-104 
TotBili-3.6*
___ 05:25PM BLOOD Lipase-30
___ 01:25AM BLOOD CK-MB-2 cTropnT-0.12*
___ 05:25PM BLOOD Albumin-3.8
___ 02:30AM BLOOD Calcium-7.7* Phos-0.8* Mg-2.0
___ 05:25PM BLOOD Osmolal-310
___ 05:29PM BLOOD Glucose-146* Lactate-14.3* Na-144 K-4.3 
Cl-117*

OTHER RELEVANT LABS:
=====================
___ 08:30AM BLOOD TSH-3.0
___ 08:30AM BLOOD Free T4-1.2
___ 06:26PM BLOOD Cortsol-12.1
___ 11:00PM BLOOD HBsAg-NEGATIVE HBcAb-NEGATIVE IgM 
HAV-NEGATIVE
___ 01:08PM BLOOD HBsAb-POSITIVE HAV Ab-POSITIVE
___ 01:08PM BLOOD CEA-4.0 PSA-22.3* AFP-2.4
___ 08:30AM BLOOD PSA-4.6*
___ 11:00PM BLOOD HIV Ab-NEGATIVE
___ 05:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-63* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:00PM BLOOD HCV Ab-NEGATIVE
___ Serum metformin level ___ send-out): not detected

LFT Trend:
___ 09:50PM BLOOD ALT-3812* AST-6142* AlkPhos-119 
TotBili-4.6*
___ 04:47AM BLOOD ALT-335* AST-48* LD(LDH)-304* AlkPhos-123 
TotBili-11.6*
___ 06:35AM BLOOD ALT-93* AST-34 AlkPhos-117 TotBili-14.6*
___ 06:13AM BLOOD ALT-39 AST-25 AlkPhos-140* TotBili-12.2*

DISCHARGE LABS:
=================
___ 06:42AM BLOOD WBC-3.6* RBC-2.83* Hgb-8.8* Hct-28.0* 
MCV-99* MCH-31.1 MCHC-31.4* RDW-17.5* RDWSD-63.3* Plt ___
___ 06:42AM BLOOD Neuts-37.1 ___ Monos-14.6* 
Eos-2.5 Baso-1.4* Im ___ AbsNeut-1.32* AbsLymp-1.56 
AbsMono-0.52 AbsEos-0.09 AbsBaso-0.05
___ 06:18AM BLOOD ___ PTT-33.3 ___
___ 06:42AM BLOOD Glucose-116* UreaN-13 Creat-1.1 Na-137 
K-4.1 Cl-103 HCO3-18* AnGap-20
___ 06:42AM BLOOD ALT-25 AST-26 AlkPhos-156* TotBili-9.7*
___ 06:42AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.8

MICROBIOLOGY:
==============
URINE CULTURE (Final ___:    NO GROWTH. 

RUBEOLA ANTIBODY, IgG (Final ___: POSITIVE BY EIA. 
      A positive IgG result generally indicates past exposure 
and/or
      immunity. 

RUBELLA IgG SEROLOGY (Final ___: POSITIVE BY EIA. 
      A positive IgG result generally indicates past exposure 
and/or
      immunity. 

VARICELLA-ZOSTER IgG SEROLOGY (Final ___: POSITIVE BY EIA. 

      A positive IgG result generally indicates past exposure 
and/or
      immunity.

TOXOPLASMA IgG ANTIBODY (Final ___: 
      EQUIVOCAL FOR TOXOPLASMA IgG ANTIBODY BY EIA. 
      4 IU/ML. 
      Reference Range:  Negative < 4 IU/ml, Positive >= 8 IU/ml. 


TOXOPLASMA IgM ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgM ANTIBODY BY EIA. 

SPUTUM GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    RARE GROWTH. 

IMAGING AND OTHER STUDIES:
==========================
Transjugular liver biopsy (___)
IMPRESSION:   
1.  Successful transjugular liver biopsy, two 18 gauge core 
biopsies sent for pathology. 
2.  Portosystemic gradient of 10 mmHg. 

Liver, needle core biopsy (___)
1. Prominent centrilobular necrosis with associated mixed 
inflammation
comprising approximately ___ of the sample (confirmed by 
reticulin stain). Adjacentbile ductular proliferation with 
associated neutrophils suggests an active regenerative process.
2. Mild mixed steatosis comprising less than 10% of the core 
biopsy without ballooning degeneration or hyalin.
3. Marked canalicular and hepatocellular cholestasis.
4. No granulomas or native bile duct injury seen.
5. Trichrome stain demonstrates no significant increase ___ 
fibrosis.
6. Iron stain shows mild iron deposition within Kupffer cells, 
postal macrophages and focally, within hepatocytes.
Note: The findings are consistent with an acute toxic pattern of 
liver injury. No histologic evidence of chronic liver injury is 
noted.
 
EMG (___):
IMPRESSION: 
Abnormal study. There is electrophysiologic evidence for a mild, 
generalized myopathy, without denervating ("inflammatory") 
features. There is also evidence for an underlying, chronic, 
generalized sensorimotor polyneuropathy with predominantly 
axonal features. 

MRCP (___):
IMPRESSION:    
1.  Abnormal enhancement ___ the liver and spleen, as described 
above, 
suggesting hepatosplenic sarcoidosis. 
2.  Moderate periportal edema and gallbladder wall edema 
suggests the presence of a recent acute on chronic liver injury. 

3.  Normal appearance of the biliary tree without evidence of 
obstruction. 
4.  Trace ascites. 
5.  Distended stomach filled with food material, compatible with 
the known diagnosis of delayed gastric emptying. 

Gastric emptying study (___):
FINDINGS:  Residual tracer activity ___ the stomach is as 
follows:   
At 45 mins 92% of the ingested activity remains ___ the stomach 
At 2 hours 66% of the ingested activity remains ___ the stomach 
At 3 hours 50% of the ingested activity remains ___ the stomach 
At 4 hours 23% of the ingested activity remains ___ the stomach   

There is a moderate delay ___ gastric emptying from the antrum, 
where activity persists throughout the study.   
IMPRESSION:   Abnormal gastric emptying study, with 23% of 
ingested activity remaining ___ the stomach at 4 hours (normal 
less than or equal to 10%). 

TTE (___):
The left atrium is normal ___ size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF = 60%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. The mitral valve leaflets are 
elongated. There is mild bileaflet mitral valve prolapse. No 
mitral regurgitation is seen. There is a very small pericardial 
effusion. There are no echocardiographic signs of tamponade. 
Compared with the prior study (images reviewed) of ___ 
left ventricular ejection fraction now appears increased. 

CXR (___):
IMPRESSION:    
Interval resolution of pulmonary edema.  Residual layering 
bilateral 
effusions.  No focal airspace consolidation to suggest 
pneumonia.  Overall cardiac and mediastinal contours are stable. 
 No pneumothorax.  Interval removal of the right internal 
jugular central line.

RUQ U/S (___):
IMPRESSION:    
1.  New mild to moderate ascites and bilateral pleural 
effusions. 
2.  Mild splenomegaly, slightly increased compared to the prior 
study. 
3.  No evidence of biliary obstruction. 
4.  Previously seen hyperechoic lesion ___ the liver is not 
visualized on the current study. 

Head CT (___):
IMPRESSION:  
No acute intracranial process. 

RUQ U/S (___):
IMPRESSION:    
1.  Patent hepatic vasculature. 
2.  2.3 cm hyperechoic lesion ___ the right lobe of the liver, 
most compatible with a hemangioma.
 

 
Brief Hospital Course:
Dr. ___ is a ___ gentleman with PMH significant for 
extrapulmonary sarcoidosis not on steroids at the time of 
admission, steroid induced DM, and depression who was 
transferred from ___ ___ the setting of fulminant hepatic 
failure secondary to Tylenol ingestion (possibly intentional, 
although patient denies this and psychiatry feels that there is 
no indication that this was an intentional overdose).  He was 
intubated and received N-acetylcysteine and ongoing supportive 
care ___ the ICU for his liver failure, ultimately with 
improvement and no indication for liver transplant.  His course 
___ the ICU was notable for hypotension managed with albumin and 
pressors (appropriate response on ACTH stimulation test); 
treatment of pneumonia with vancomycin/zosyn/fluconazole 
(narrowed to cefepime on the basis of culture results); hepatic 
encephalopathy; and thrombocytopenia (thought to be secondary to 
medications, specifically Zosyn and famotodine, which were 
discontinued).  

After extubation and as his LFTs downtrended, he was transferred 
to the medicine service, where his LFTs continued to improve 
(with the exception of an uptrending bilirubin level).  He was 
noted to be profoundly weak, even relative to his baseline.  He 
was also noted to have nausea and vomiting.  His work-up and 
treatment for these problems is outlined below:
 
ACTIVE ISSUES
==============

# FULMINANT HEPATIC FAILURE: 
While most of his LFTs continued to normalize after his transfer 
out of the ICU, he had a rising predominantly direct 
hyperbilirubinemia without associated elevation ___ alkaline 
phosphatase.  A RUQ ultrasound was obtained and showed no 
evidence of biliary obstruction, but did reveal mild to moderate 
ascites, bilateral pleural effusions, and splenomegaly.  A 
diagnostic paracentesis was performed, and analysis of ascitic 
fluid initially seemed to be consistent with CHF (elevated SAAG 
with high total protein).  However, a cardiac echo on ___ 
showed no evidence of systolic or diastolic dysfunction.  Given 
this, cirrhosis seemed more likely as the cause of his ascites.  
He was started on Lasix for ascites, but this was discontinued 
due to orthostasis.  He also had intermittent somnolence and 
confusion, consistent with hepatic encephalopathy, which 
improved with lactulose.  
 
We then performed a transjugular biopsy of his liver during 
which we recorded intravascular pressures consistent with portal 
hypertension (hepatic venous pressure gradiet = 10 mmHg).  
Pathology results showed acute toxic injury without histologic 
evidence of chronic liver injury. His bilirubin remained 
persistently elevated and we performed an MRCP, which showed no 
evidence of biliary obstruction but did reveal abnormal 
enhancement ___ the liver and spleen, suggestive of hepatosplenic 
sarcoidosis (although note that directed biopsy of liver lesions 
was not performed to confirm this diagnosis). 

His bilirubin was still elevated at time of discharge (though 
downtrending), despite treatment with ursodiol; we believe that 
this is secondary to resolving acetaminophen toxicity.

Overall, Dr. ___ is consistent acute liver 
injury due to acetaminophen intoxication. We cannot rule out 
underlying hepatic sarcoidosis. He will need to follow up with a 
hepatologist for long-term evaluation and treatment of his liver 
dysfunction.  He will also need an outpatient EGD to screen for 
varices.

# GASTROPARESIS:
Early ___ his hospsital course, he vomited his undigested 
breakfast at 5pm, suggestive of gastroparesis. This occurred 
several times, despite treatment with Zofran. To evaluate for 
gastroparesis, we performed a gastric emptying study (4 days 
after discontinuation of Reglan, to ensure that this would not 
interfere with the study). He was not on opioids at the time of 
gastric emptying study. The gastric emptying study showed 23% of 
ingested activity remaining ___ the stomach at 4 hours (normal: 
less than or equal to 10%).  He was started on standing PO 
Reglan with meals and was able to tolerate full meals without 
nausea or vomiting.  He was encouraged to eat small, frequent 
meals.

# WEIGHT LOSS:
His recorded weight ___ the ICU on ___, after receiving IVF 
and blood products, was 60.6 kg. On transfer to the medicine 
floor on ___ (at which point he was fluid overloaded, 
estimated at a total of +9L following ICU stay), his weight was 
67.3 kg (BMI of 23.3).  He initially self-diuresed 1.5-2 L a day 
until reaching ~58 kg, and subsequently lost about 5 kg during 
his final 1.5 weeks of hospitalization.  His weight on discharge 
was 53.3 kg (BMI 18.4).  Note that he was eating full meals for 
approximately one week prior to discharge; prior to this his PO 
intake was limited ___ gastroparesis (see above).  He was seen 
by nutrition who recommended an intake of 1872 kcal and 94g 
protein/day. Please ensure that he meets these nutrition 
requirements on discharge. If his BMI drops below 18.0 (52 kg), 
please consider hospitalization for NGT placement and tube feed 
initiation. 

The etiology of his weight loss remains unclear at this time, 
but is assumed to be related to poor PO intake. If he continues 
to lose weight despite continued adequate PO intake please 
consider further workup for other etiologies of weight loss. 
Ensure that he is up-to-date on all cancer screening.

# WEAKNESS:
Likely multifactorial, acutely due to ICU myopathy with 
underlying chronic contribution from other myopathy (e.g. 
steroid myopathy, sarcoid myopathy), poor nutrition, and/or 
neuromuscular disorder.  Depression could be contributing but is 
unlikely to be the sole etiology. Unlikely to be myositis given 
normal CK (21). Maximal inspiratory pressure was normal (MIP of 
-60 on ___. EMG and nerve conduction studies were 
performed, and showed electrophysiologic evidence for a mild, 
generalized myopathy, without denervating ("inflammatory") 
features, as well as evidence for an underlying, chronic, 
generalized sensorimotor polyneuropathy with predominantly 
axonal features. He will need to be seen ___ follow up by a 
neuromuscular specialist to review the results of this EMG and 
determine an appropriate plan for further evaluation and 
treatment. 

# DEPRESSION:
Psychiatry was consulted and they felt that he is not actively 
suicidal and not at risk of self-harm.  They recommended 
restarting mirtazepine 15 mg po qhs on an outpatient basis under 
the care of an outpatient psychiatrist after complete resolution 
of liver failure.  He may schedule an appointment with ___ 
Psychiatry if he has difficulty arranging an outpatient 
psychiatry follow-up.

INACTIVE ISSUES
================
# SARCOIDOSIS: 
Presented primarily with weakness.  Lymph node biopsy at ___ ___ 
___ reportedly showed noncaseating granulomas consistent with 
sarcoidosis.  He does not recall having prior muscle biopsies.  
He will need further evaluation and treatment for his 
sarcoidosis as an outpatient; please consider referral to a 
sarcoidosis specialist.

# PAROXYSMAL ATRIAL FIBRILLATION:
Reduced metoprolol from 50 mg BID to 12.5 mg PO BID due to 
orthostatic hypotension. 

# DIABETES MELLITUS:
Blood sugars were well-controlled on a conservative insulin 
sliding scale.  He required minimal insulin during his 
hospitalization.  As an outpatient, his PCP may consider 
restarting metformin after resolution of liver failure.

# PNEUMONIA:
Patient was treated ___ the ICU for pneumonia, initially with 
vancomycin, Zosyn, and fluconazole.  His sputum grew sparse 
GNRs, so he was narrowed to cefepime.  He completed a ___CUTE KIDNEY INJURY: 
Creatinine elevated to 2.2 while ___ ICU, most likely secondary 
ATN ___ the setting of shock.  His creatinine normalized by 
discharge.

# CONCERN FOR CHF:
Question of possible CHF was raised given ascitic fluid with 
high total protein and elevated SAAG (concerning for congestive 
hepatopathy).  However, TTE on ___ showed no evidence of 
systolic or diastolic dysfunction.  Cardiology was consulted 
given concern for possible sarcoid infiltration of the heart, 
but they did not recommend further work-up at this time (such as 
a cardiac MRI).  This could be considered as an outpatient.

# ELEVATED PSA:
PSA was 22 on ___, though this could have been falsely 
elevated ___ the setting of recent Foley placement.  PSA was 
re-checked on ___ and was 4.6.

TRANSITIONAL ISSUES
====================
[ ] Will need weekly labs (CBC, chem-10, LFTs, coags) while ___ 
rehab, which should be faxed to Dr. ___ (fax: 
___.
[ ] New medications: Lactulose, Ursadiol, PO Reglan TID, PRN 
Zofran
[ ] New medication dose: Metoprolol 12.5 BID (reduced dose ___ 
orthostasis)
[ ] Continue to monitor QTC periodically given Reglan/Zofran; 
avoid QTc-prolonging medications such as trazodone.
[ ] Discontinued furosemide seconeary to orthostasis; please 
consider re-starting either furosemide or spironolactone on an 
outpatient basis as needed for ascites.
[ ] If possible, please arrange follow-up with sarcoidosis 
specialist 
[ ] Please ensure that patient is up to date on cancer screening 
given profound recent weight loss
[ ] Re-check PSA as outpatient (PSA 4.6 on ___
[ ] Follow-up with Psychiatry: Patient would benefit from 
psychiatric follow up for treatment for depression (patient's 
wife is arranging this; alternatively could schedule with ___ 
Psychiatry at ___. Please start mirtazapine 15 mg po 
qhs after complete resolution of liver failure.
[ ] Follow-up with ___ clinic for myopathy/neuropathy
[ ] Follow-up with Rheumatology after Neuromuscular appointment
[ ] Follow-up with Dr. ___ Hepatology; Will need 
screening EGD for varices given portal hypertension
[ ] Follow-up with Hematology-Oncology (Dr. ___ 
referral prior to current admission)
[ ] Blood sugars were controlled on an insulin sliding scale, 
though his insulin requirements were minimal. Insulin was 
discontinued on discharge.  Consider re-initiation of metformin 
once liver injury resolves.
[ ] Consider cardiac MRI to evaluate for cardiac sarcoidosis.
[ ] Consider anemia workup as outpatient; anemia is chronic and 
possibly contributing to fatigue.
[ ] If patient's weight drops to <52 kg despite adequate po 
intake, consider hospitalization for NG tube placement and tube 
feeds.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 7.5 mg PO QHS 
2. Pantoprazole 40 mg PO BID 
3. Ondansetron 4 mg PO Frequency is Unknown 

 
Discharge Medications:
1. Pantoprazole 40 mg PO BID 
2. Ursodiol 300 mg PO TID 
3. Docusate Sodium 100 mg PO BID 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Lactulose 30 mL PO DAILY 
Please titrate to 2 bowel movements a day. 
6. Metoprolol Tartrate 12.5 mg PO BID 
7. Metoclopramide 5 mg PO TID W/MEALS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
Fulminant hepatic failure
Portal hypertension
Gastroparesis
Depression

SECONDARY DIAGNOSES
====================
Extrapulmonary sarcoidosis
Myopathy of undetermined etiology
Steroid-induced diabetes mellitus
Paroxysmal atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr. ___,

___ has been a pleasure participating ___ your care at ___.  You 
were hospitalized for treatment of fulminant hepatic failure 
secondary to Tylenol intoxication.  You were initially treated 
___ the ICU, where you received N-acetylcysteine and required 
ventilation for several days.  While ___ the ICU, you were 
treated with cefepime for pneumonia.  You were transferred to 
the medicine service after your liver failure began to resolve.  


After your transfer to the medicine service, you were noted to 
be confused at times, consistent with hepatic encephalopathy.  
We treated you with lactulose, and your confusion resolved.  We 
also performed a transjugular biopsy of your liver.  While 
obtaining the biopsy, our interventional radiologists measured 
intravascular pressures consistent with portal hypertension.  
Pathology results from your biopsy showed acute inflammation ___ 
your liver with no evidence of underlying chronic liver injury.  
We performed an MRCP, which showed heterogeneity within your 
liver that could be consistent with hepatic sarcoidosis. P 
utting this information together, we believe that your liver 
failure was predominantly acute, due to tylenol ingestion, but 
we cannot rule out underlying hepatic sarcoidosis.  Please 
follow up closely with our hepatologists for further evaluation 
and treatment, and to monitor your liver function tests until 
they normalize.

You were also profoundly weak during this hospitalization.  We 
understand that your strength has been declining over the past 
several months.  To evaluate the cause of your weakness, we 
performed an EMG.  The EMG showed mild, generalized myopathy and 
an underlying, chronic, generalized sensorimotor polyneuropathy. 
 Please follow up ___ our ___ clinic for further 
evaluation, and continue to work with physical therapy to 
improve your strength.

We evaluated you for persistent nausea and vomiting. You had a 
gastric emptying study that showed moderately delayed gastric 
emptying.  This is consistent with a diagnosis of gastroparesis. 
 After this study, we re-started your treatment with Reglan at 
mealtimes, and you were able to tolerate full meals. Our 
nutrition team saw you and recommended that you eat about ___ 
kcal per day with 94g protein per day, ___ order to ensure 
adequate nutrition.Your weight on discharge was 53.3 kg. Please 
contact your physician if you continue to lose weight after 
discharge. 

Finally, you were seen by our psychiatry team.  They feel that 
you would benefit from follow-up with an outpatient psychiatrist 
to support you during this difficult time.  You can schedule an 
appointmentn with one of the psychiatrists at ___ by calling 
___.

We agree that your sarcoidosis could be contributing to some of 
the problems that you are experiencing, and that it might be 
helpful for you to see a sarcoidosis specialist.  We encourage 
you to work with your PCP to arrange this follow-up.

We wish you the best as you recover,
Your ___ care team
 
Followup Instructions:
___